data/polar.json
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:2]([CH:15]1[N+:28](=[CH:7][CH:48]=[CH:16][c:38]2[cH:8][cH:30][cH:6][cH:31][cH:9]2)[CH:19]([CH2:49][c:42]2[cH:51][cH:17][cH:34][cH:18][cH:52]2)[C:36](=[O:10])[N:43]1[CH3:35])([CH3:39])([CH3:40])[CH3:41].[N:1]1([c:29]2[cH:44][cH:3][n:50][cH:4][cH:45]2)[CH2:24][CH2:47][CH2:5][CH:25]1[C:37]([c:32]1[cH:11][cH:20][cH:26][cH:21][cH:12]1)([c:33]1[cH:13][cH:22][cH:27][cH:23][cH:14]1)[F:46]>>[N+:1]1(=[c:29]2[cH:44][cH:3][n:50]([CH:16]([c:38]3[cH:8][cH:30][cH:6][cH:31][cH:9]3)[CH:48]=[CH:7][N:28]3[CH:15]([C:2]([CH3:39])([CH3:40])[CH3:41])[N:43]([CH3:35])[C:36](=[O:10])[CH:19]3[CH2:49][c:42]3[cH:51][cH:17][cH:34][cH:18][cH:52]3)[cH:4][cH:45]2)[CH2:24][CH2:47][CH2:5][CH:25]1[C:37]([c:32]1[cH:11][cH:20][cH:26][cH:21][cH:12]1)([c:33]1[cH:13][cH:22][cH:27][cH:23][cH:14]1)[F:46]", "epd": [["LP-/Pi+", [1], [1, 29]], ["Pi-/Pi+", [29, 45], [4, 45]], ["Pi-/Pi+", [16, 48], [7, 48]], ["Pi-/Sigma+", [4, 50], [16, 50]], ["Pi-/LP+", [7, 28], [28]]]}
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[C:1]([O:10][C:25](=[O:7])[N:21]=[CH:9][c:6]1[cH:4][cH:17][cH:20][cH:18][cH:5]1)([CH3:22])([CH3:23])[CH3:24].[CH3:2][C:8](=[C:3]=[N-:11])[c:12]1[cH:13][cH:15][cH:19][cH:16][cH:14]1>>[C:1]([O:10][C:25]([O-:7])=[N:21][CH:9]([c:6]1[cH:4][cH:17][cH:20][cH:18][cH:5]1)[C:8]([CH3:2])([C:3]#[N:11])[c:12]1[cH:13][cH:15][cH:19][cH:16][cH:14]1)([CH3:22])([CH3:23])[CH3:24]", "epd": [["LP-/Pi+", [11], [3, 11]], ["Pi-/Sigma+", [8, 3], [8, 9]], ["Pi-/Pi+", [9, 21], [21, 25]], ["Pi-/LP+", [25, 7], [7]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[S:1]1(=[O:26])(=[O:27])[c:17]2[c:5]([cH:10][cH:3][cH:22][cH:8]2)[C:25]([O-:6])=[N:24]1.[cH:2]1[cH:13][cH:4][c:7]2[c:14]([o+:9][c:12](-[c:21]3[cH:18][cH:15][cH:23][cH:16][cH:19]3)[cH:11][cH:20]2)[cH:28]1>>[S:1]1(=[O:26])(=[O:27])[c:17]2[c:5]([cH:10][cH:3][cH:22][cH:8]2)[C:25](=[O:6])[N:24]1[CH:20]1[c:7]2[cH:4][cH:13][cH:2][cH:28][c:14]2[O:9][C:12]([c:21]2[cH:18][cH:15][cH:23][cH:16][cH:19]2)=[CH:11]1", "epd": [["LP-/Pi+", [6], [25, 6]], ["Pi-/Sigma+", [24, 25], [24, 20]], ["Pi-/Pi+", [20, 11], [11, 12]], ["Pi-/LP+", [12, 9], [9]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[CH3:1][C:10]([CH3:2])=[N+:13]([O-:15])[O-:16].[O:3]=[S:7](=[O:4])([N:12]=[C:11]=[O:14])[c:18]1[cH:8][cH:5][c:17]([CH3:19])[cH:6][cH:9]1>>[CH3:1][C:10]([CH3:2])([C:11]([N-:12][S:7](=[O:3])(=[O:4])[c:18]1[cH:8][cH:5][c:17]([CH3:19])[cH:6][cH:9]1)=[O:14])[N+:13](=[O:15])[O-:16]", "epd": [["LP-/Pi+", [15], [13, 15]], ["Pi-/Sigma+", [10, 13], [10, 11]], ["Pi-/LP+", [11, 12], [12]]]}
{"reaction_name": "Electrophilic fluorination", "rsmi": "[O:1]=[S:20](=[O:2])([N:18]([F:17])[S:19](=[O:3])(=[O:4])[c:28]1[cH:9][cH:21][cH:14][cH:24][cH:12]1)[c:29]1[cH:10][cH:22][cH:15][cH:23][cH:11]1.[cH:5]1[cH:7][c:8]2[c:27]([cH:16][cH:30]1)[CH:26]=[CH:6][CH:25]2[Li:13]>>[Li+:13].[O:1]=[S:20](=[O:2])([N-:18][S:19](=[O:3])(=[O:4])[c:28]1[cH:9][cH:21][cH:14][cH:24][cH:12]1)[c:29]1[cH:10][cH:22][cH:15][cH:23][cH:11]1.[cH:5]1[cH:7][c:8]2[c:27]([cH:16][cH:30]1)[CH:26]=[CH:6][CH:25]2[F:17]", "epd": [["Sigma-/Sigma+", [25, 13], [25, 17]], ["Sigma-/LP+", [17, 18], [18]]]}
{"reaction_name": "Haloalkene carbene generation", "rsmi": "[Cl:1][C:6]([Cl:2])=[C:5]([Cl:4])[H:7].[OH-:3]>>[Cl-:4].[Cl:1][C:6]([Cl:2])=[C:5].[OH:3][H:7]", "epd": [["Sigma-/LP+", [4, 5], [4]], ["Sigma-/LP+", [5, 7], [5]], ["LP-/Sigma+", [3], [3, 7]]]}
{"reaction_name": "Alkene dihydroxylation", "rsmi": "[O:1]=[Os:7](=[O:2])(=[O:8])=[O:9].[O:10]([H:5])[H:11].[O:12]([H:6])[H:13].[CH2:3]=[CH2:4]>>[O:1]([CH2:3][CH2:4][O:2][H:6])[H:5].[O:8]=[Os:7](=[O:9])([O:10][H:11])[O:12][H:13]", "epd": [["Sigma-/Sigma+", [1, 7], [1, 5]], ["Pi-/Sigma+", [1, 7], [1, 3]], ["Sigma-/Sigma+", [2, 7], [2, 6]], ["Pi-/Sigma+", [3, 4], [2, 4]], ["Pi-/LP+", [2, 7], [7]], ["Sigma-/Sigma+", [5, 10], [7, 10]], ["Sigma-/Sigma+", [6, 12], [7, 12]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:1]([CH:9]1[N+:14](=[CH:3][CH:32]=[CH:10][c:21]2[cH:4][cH:16][cH:2][cH:17][cH:5]2)[CH:13]([CH2:33][c:28]2[cH:34][cH:11][cH:18][cH:12][cH:35]2)[C:20](=[O:6])[N:29]1[CH3:19])([CH3:22])([CH3:23])[CH3:24].[O-:7][c:8]1[cH:30][cH:25][c:27]([CH3:15])[cH:26][cH:31]1>>[C:1]([CH:9]1[N:14]([CH:3]=[CH:32][CH:10]([O:7][c:8]2[cH:30][cH:25][c:27]([CH3:15])[cH:26][cH:31]2)[c:21]2[cH:4][cH:16][cH:2][cH:17][cH:5]2)[CH:13]([CH2:33][c:28]2[cH:34][cH:11][cH:18][cH:12][cH:35]2)[C:20](=[O:6])[N:29]1[CH3:19])([CH3:22])([CH3:23])[CH3:24]", "epd": [["LP-/Sigma+", [7], [7, 10]], ["Pi-/Pi+", [10, 32], [32, 3]], ["Pi-/LP+", [3, 14], [14]]]}
